// Stavros Stathoudakis
simulator lang=spectre
global 0
include "/CASNFSHOME/home/dvaliantzas/techlibs.srcs/IHP-0.13/SG13S_618_rev1.12.16/tech/SG13_MOS/library/spectre/cornerMOSlv_psp.scs" section=tt
include "/CASNFSHOME/home/dvaliantzas/techlibs.srcs/IHP-0.13/symlinks/ixc013ng_stdcell.RHCharacterisation_latest/transistormodels/ixc013ng_stdcell_rc.scs"

// Chain
nor1 (in1 out vdd vss) INVJIX0
nor2 (out out2 vdd vss) INVJIX0
nor3 (out2 out3 vdd vss) INVJIX0
nor4 (out3 out4 vdd vss) INVJIX0
nor5 (out4 out5 vdd vss) INVJIX0
nor6 (out5 out6 vdd vss) INVJIX0
nor7 (out6 out7 vdd vss) INVJIX0
nor8 (out7 out8 vdd vss) INVJIX0
nor9 (out8 out9 vdd vss) INVJIX0
nor10 (out9 out10 vdd vss) INVJIX0

// FO4
subckt FO4 (out vdd vss)
nor11 (out out11 vdd vss) INVJIX0
nor12 (out out12 vdd vss) INVJIX0
nor13 (out out13 vdd vss) INVJIX0
ends

nor1_fanout4 (out vdd vss) FO4
nor2_fanout4 (out2 vdd vss) FO4
nor3_fanout4 (out3 vdd vss) FO4
nor4_fanout4 (out4 vdd vss) FO4
nor5_fanout4 (out5 vdd vss) FO4
nor6_fanout4 (out6 vdd vss) FO4
nor7_fanout4 (out7 vdd vss) FO4
nor8_fanout4 (out8 vdd vss) FO4
nor9_fanout4 (out9 vdd vss) FO4
nor10_fanout4 (out10 vdd vss) FO4

// Inputs
_vvss (vss 0) vsource dc=0 type=dc
_vvdd (vdd 0) vsource dc=1.2 type=dc
_vin1 (in1 0) vsource data="01" rptstart=1 rpttimes=0 val1=1.2 val0=0 delay=5p rise=150p fall=150p period=1n type=bit

// Simulation
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 ckptclock=1800 sensfile="../psf/sens.output" checklimitdest=psf 
    
tran tran stop=5000n write="spectre.ic" writefinal="spectre.fc" annotate=status maxiters=5

// Measurement of delay
simulator lang=spice
.param voltage=1.2
.meas tran delay_out6 when V(out6)='voltage/2' rise=1
.meas tran delay_out8 when V(out8)='voltage/2' rise=1
.meas tran slew20 when V(out2)='voltage*0.2' rise=1
.meas tran slew80 when V(out2)='voltage*0.8' rise=1
.meas tran delay_out8_ou6 param='(delay_out8 - delay_out6)'
.meas tran slew param='(slew80 - slew20)'
